US04775675
3-Acetyl-5,5-dimethyl-2(S)-(5-nitro-2-furyl)-thiazolidine-4(S)-carboxylic acid
A solution containing 2.72 g (10 mmoles) of 5,5-dimethyl-2-(5-nitro-2-furyl)-thiazolidine-4(S)-carboxylic acid in 5.6 ml of water is heated to 100° C. on the steam bath. After adding 5.6 ml of acetic anhydride, the mixture is heated for additional 3 minutes. On the addition of water, 2.6 g (84.3%) of the title compound are precipitated, m.p.: 191°14 194° C., [α]D25 =-315.8° (c=0.938, dimethylsulphoxide).

reactant | 5,5-dimethyl-2-(5-nitro-2-furyl)-thiazolidine-4(S)-carboxylic acid | 10 mmoles, 2.72 g | CC1([C@@H](NC(S1)C=1OC(=CC1)[N+](=O)[O-])C(=O)O)C | C10H12N2O5S
reactant | acetic anhydride | 5.6 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 5.6 ml | O | H2O
product | 3-Acetyl-5,5-dimethyl-2(S)-(5-nitro-2-furyl)-thiazolidine-4(S)-carboxylic acid | 2.6 g, 84.3% | C(C)(=O)N1[C@@H](SC([C@@H]1C(=O)O)(C)C)C=1OC(=CC1)[N+](=O)[O-] | C12H14N2O6S
